US05516774
10,11-Dihydro-10-(4-nitro-3-methoxybenzoyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine
To a solution of 0.55 g of 10,11-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine in 8 ml of methylene chloride is added 0.55 g of triethylamine followed by 0.97 g of 3-methoxy-4-nitrobenzoyl chloride. The reaction mixture is stirred at room temperature for 2 hours and then quenched with 10 ml of 1N NaOH. The methylene chloride layer is evaporated and the resulting suspension filtered. The precipitate is washed with 1N NaOH (2×5 ml), water (3×5 ml) and hexane (2×5 ml). The collected solid is dried in vacuo to give 1.13 g of off-white solid. MS(CI): 364(M+H).

reactant | 10,11-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine | 0.55 g | C=1C=CN2C1CNC1=C(C2)C=CC=C1 | C12H12N2
reactant | triethylamine | 0.55 g | C(C)N(CC)CC | C6H15N
reactant | 3-methoxy-4-nitrobenzoyl chloride | 0.97 g | COC=1C=C(C(=O)Cl)C=CC1[N+](=O)[O-] | C8H6ClNO4
solvent | methylene chloride | 8 ml | C(Cl)Cl | CH2Cl2
product | 10,11-Dihydro-10-(4-nitro-3-methoxybenzoyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine | 1.13 g | [N+](=O)([O-])C1=C(C=C(C(=O)N2CC=3N(CC4=C2C=CC=C4)C=CC3)C=C1)OC | C20H17N3O4
